US05880126
25 mg of sodium borohydride is added to a solution of 35 mg of 5-benzyloxy-4-methoxymethyl-9-{2-[N-methyl-N-(2-phenylethyl)-amino]-2-oxoethyl}-9H-pyrido[3,4-b]indole-3-carbaldehyde in 1 ml of tetrahydrofuran at 0° C., and it is then stirred for 3 hours at 0° C. Then, the reaction mixture is poured into ice water and extracted three times with ethyl acetate. The organic phase is dried on magnesium sulfate, filtered and concentrated by evaporation in a vacuum. 34 mg of 5-benzyloxy-3-hydroxymethyl-4-methoxymethyl-9-{2-[N-methyl-N-(2-phenylethyl)-amino]-2-oxoethyl}-9H-pyrido[3,4-b]indole is obtained.

reactant | sodium borohydride | 25 mg | [BH4-].[Na+]
reactant | 5-benzyloxy-4-methoxymethyl-9-{2-[N-methyl-N-(2-phenylethyl)-amino]-2-oxoethyl}-9H-pyrido[3,4-b]indole-3-carbaldehyde | 35 mg | C(C1=CC=CC=C1)OC1=C2C3=C(N(C2=CC=C1)CC(=O)N(CCC1=CC=CC=C1)C)C=NC(=C3COC)C=O | C32H31N3O4
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 5-benzyloxy-3-hydroxymethyl-4-methoxymethyl-9-{2-[N-methyl-N-(2-phenylethyl)-amino]-2-oxoethyl}-9H-pyrido[3,4-b]indole | 34 mg | C(C1=CC=CC=C1)OC1=C2C3=C(N(C2=CC=C1)CC(=O)N(CCC1=CC=CC=C1)C)C=NC(=C3COC)CO | C32H33N3O4
